US08202856B2
1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidine-4-carboxylic acid
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (100 mg; 0.24 mmol) and piperidine-4-carboxylic acid (62.6 mg; 0.48 mmol) to give Example 128 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.75 (2H, d, J=5.3 Hz), 7.97-7.88 (3H, m), 7.73 (1H, q, J=6.9 Hz), 7.61 (2H, d, J=5.4 Hz), 7.55-7.48 (4H, m), 3.56 (2H, s), 2.78 (2H, d, J=10.9 Hz), 2.27-2.18 (1H, m), 2.05 (2H, m), 1.81 (2H, m), 1.61 (2H, m). LC/MS (Method C): 526 (M+H)+. HPLC (Method E) Rt 2.20 min (Purity: 97.7%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | piperidine-4-carboxylic acid | 0.48 mmol, 62.6 mg | N1CCC(CC1)C(=O)O | C6H11NO2
product | 1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidine-4-carboxylic acid | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(CN2CCC(CC2)C(=O)O)C=C1 | C28H24FN7O3
